US06121309
5,8-Dimethyl-2-naphthaldehyde
Under nitrogen atmosphere, 20.9 g of this crude aldehyde was dissolved in 300 ml of dioxane, followed by the addition of 50.9 g of dichlorodicyanobenzo-quinone. The resulting mixture was heated under reflux for 1.5 hours and cooled to room temperature by allowing to stand. Then, 500 ml of toluene was added to the resulting mixture to thereby form a precipitate. The resulting precipitate-containing mixture was filtered and the filter cake was washed with toluene several times. The filtrate was concentrated and the resulting crude product was purified by silica gel column chromatography to give 10.3 g of the title compound as colorless crystals.

reactant | dichlorodicyanobenzo-quinone | 50.9 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 5,8-Dimethyl-2-naphthaldehyde | 10.3 g | CC1=C2C=CC(=CC2=C(C=C1)C)C=O | C13H12O
